Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
Chest Pressure
 
Major Surgical or Invasive Procedure:
left heart catheterization ___

 
History of Present Illness:
 ___ male with past medical history of CAD s/p BMS to 
LAD in ___, then DES (? location) in ___, HTN, HLD, GERD 
presented on ___ morning with exertional chest pressure.  
 On the morning of ___ he was at work (works as ___ 
___) walking around when he developed substernal chest 
pressure that lasted approximately ___ minutes. He also felt 
SOB and lightheaded while this was occurring. No 
nausea/vomiting, no diaphoresis. EMS was called, and en route he 
was given full dose ASA and nitro spray which resolved the chest 
pain. The symptoms recurred briefly with radiation to the left 
arm in the waiting room and resolved. He has not had these 
symptoms before. He had neck pain with his prior myocardial 
infarction. He had no fevers or cough. Report of inferior STDs 
by EMS but no strips available.  
 Of note, pt went to ___ on ___ with 3 episodes of 
chest pain, SOB and presyncopal symptoms. His EKG showed 
inferolateral STD that was not significantly changed from ___ EKG. His troponins were neg x2, and his pain was felt to be 
so atypical that a stress test was deemed unnecessary.  
 In the ___, initial vitals were:  
 T98.1 80 124/62 16 98% RA.  
 - ECG: sinus bradycardia, borderline LVH, and no over evidence 
of ischemia.  
 - Labs: WBC 6.6, H/H 12.5/37.5, Cr 0.8, troponin <0.01 x 2.  
 - CXR: borderline size of cardiac silhouette without pulmonary 
edema.  
 - Patient has been given ASA 81mg and atorvastation 80mg.  
 - ETT on ___ AM: Patient tolerated 8 minutes ___ and 
requested to stop due to dyspnea but no chest pain. There were 
0.5-1mm STD inferolaterally at peak exercise which lingered to 
10 minutes.  
 - Vitals on transfer were: 98.1 62 120/67 25 97% RA  
 On the floor, patient endorses mild headache that started while 
exercising during his stress test. No chest pressure since 
morning of ___.  
 
 On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope.  

 
Past Medical History:
CAD s/p BMS to LAD in ___, then DES in ___
HTN
HLD- On rosuvastatin 20 mg daily prior to admission
GERD
 
Social History:
___
Family History:
 Mother died of MI at age ___  
 
Physical Exam:
ADMISSION EXAM
Vitals: 98.2 129/74 72 18 98RA  
General: Pleasant well appearing man in no acute distress  
HEENT: NCAT, pupils equal, EOMI. MMM.  
Neck: Supple  
CV: S1/S2, RRR no m/r/g  
Lungs: CTAB all fields  
Abdomen: Soft, nontender nondistended NABS  
GU: No Foley  
Extr: No edema  
Neuro: A/O x3, moves all extremities, alert/appropriate  
Skin: No rashes  

DISCHARGE EXAM
Vitals: 97.8 99-106/60-70s 70-80s 18 98RA 73.7kg
General: Pleasant well appearing man in no acute distress; 
hearing aids in place but still hard of hearing
HEENT: NCAT, pupils equal, EOM grossly intact. MMM.  
Neck: Supple, no bruits auscultated; JVP at clavicle at 45deg 
(5cm)
CV: S1/S2, RRR no m/r/g  
Lungs: CTAB all fields  
Abdomen: Soft, nontender nondistended NABS  
GU: No Foley 
Extr: No edema  
Neuro: A/O x3, moves all extremities, alert/appropriate  
Skin: No rashes  

 
Pertinent Results:
==Admission Labs==
___ 07:30AM BLOOD Neuts-53.6 ___ Monos-11.0 Eos-2.6 
Baso-1.2* Im ___ AbsNeut-3.51 AbsLymp-2.05 AbsMono-0.72 
AbsEos-0.17 AbsBaso-0.08

___ 07:30AM BLOOD Glucose-108* UreaN-20 Creat-0.8 Na-141 
K-3.7 Cl-106 HCO3-24 AnGap-15

___ 07:30AM BLOOD ALT-38 AST-31 AlkPhos-37* TotBili-0.2
___ 07:30AM BLOOD Albumin-4.3
___ 07:30AM BLOOD Lipase-43

___ 07:30AM BLOOD cTropnT-<0.01
___ 01:30PM BLOOD cTropnT-<0.01

___ 07:30AM URINE Color-Straw Appear-Clear Sp ___
___ 07:30AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:30AM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE Epi-0

==Microbiology==
Urine Culture ___: No Growth

==Imaging==
___ ETT  
INTERPRETATION: This ___ year old man s/p multiple PCIs was 
referred  
to the lab for evaluation of chest discomfort. The patient 
exercised  
for 8.25 minutes of ___ protocol ___ METS) and was stopped 
at his request for shortness of breath. This represents an 
average functional capacity for his age. There were no chest, 
neck, back, or arm discomforts reported by the patient 
throughout the procedure. The patient did report "shortness of 
breath" early in exercise but was not visibly dyspneic. At peak 
exercise, there was 0.5-1 mm of ST scooping inferolaterally. 
These changes resolved by 10 minutes post exercise.  
 
The rhythm was sinus without ectopy. The heart rate response to  

exercise was blunted in the absence of beta-blockade.  
IMPRESSION: Borderline ischemic EKG changes with shortness of 
breath as a possible anginal equivalent.  

___ CXR  
IMPRESSION: Comparison to ___. Moderate scoliosis. 
Stable borderline size of the cardiac silhouette without 
pulmonary edema. No pneumonia, no pleural effusions, no 
pneumothorax.  

___ CATH:
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has a proximal patent stent and a mid 40% stenosis.
* Circumflex
The dominant Circumflex has a patent stent distally.
* Right Coronary Artery
The RCA is nondominant and normal.
Impressions:
Patent stents with no residual tight stenosis.

==Discharge Labs==
.8*# RBC-4.41* Hgb-13.3* Hct-40.2 MCV-91 MCH-30.2 MCHC-33.1 
RDW-12.4 RDWSD-40.9 Plt ___
___ 06:34AM BLOOD Glucose-166* UreaN-21* Creat-0.8 Na-139 
K-3.8 Cl-103 HCO3-23 AnGap-___ year old male with history of CAD s/p BMS to LAD and DES (? 
location) who presented on ___ with exertional chest pain.

# Unstable angina: Troponins were found to be negative. No 
changes on EKG. Patient underwent exercise stress test in ___ 
which did not show any clear ischemic changes with exertion 
("Borderline ischemic EKG changes with shortness of breath as a 
possible anginal equivalent"). He tolerated 8min ___ 
protocol. Given prior cardiac hx and recurrence of chest pain, 
however, he was admitted. He was started on ASA 81mg, 
atorvastatin 80mg, and metoprolol 6.25mg q6h. Several hours 
later, after admission for LHC, patient reported R jaw pain and 
L chest pressure (patient's angina equivalent during previous 
MI); he was started on heparin gtt. No EKG was taken during the 
episode and patient notably did not require nitro. Patient 
underwent LHC on ___ which showed moderate narrowing of septal 
branch, insignificant disease; no intervention was performed. 
Given classic angina symptoms, patient was continued on 
metoprolol XL 25 and started on Imdur 30mg at discharge.

# GERD:  Continued pantoprazole 40mg daily while in house (no 
20mg tabs available in hospital).
 
# Anemia: Normocytic. Stable throughout hospitalization.  Will 
likely need further eval as an outpatient with endoscopy to 
evaluate for gastritis (prior hx) versus colonoscopy if he has 
not had screening colonoscopy yet.  Iron and hemolysis studies 
were WNL.

TRANSITIONAL ISSUES
- Normocytic anemia, prior h/o gastric ulcer, may need endoscopy 
or other workup if this has not been done in the outpatient 
setting; due for colonoscopy if he hasn't had one yet.
- Started on metoprolol and imdur given known coronary disease. 
Continued on aspirin and rosuvastatin.
- Please consider changing to high-intensity/high-dose statin. 
- CODE: Full confirmed 
- CONTACT: Wife ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 20 mg PO QPM 
2. Pantoprazole 20 mg PO Q24H 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Pantoprazole 20 mg PO Q24H 
3. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
4. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
5. Rosuvastatin Calcium 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
-Atypical chest pain

SECONDARY
-Gastroesophageal reflux disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

You were admitted because you had chest pain. This was 
concerning as you have had previous stents in your heart. You 
underwent cardiac catheterization which revealed no significant 
disease and no intervention was done. Your previous stents 
appeared to be working well.

It is very important to take all of your heart healthy 
medications; you have been started on two new medications for 
your heart called Toprol XL I(metoprolol succinate) and Imdur 
(isosorbide mononitrate). 

You are now on aspirin. You need to take aspirin everyday. If 
you stop taking aspirin, you risk the stents clotting and death. 
Do not stop taking aspirin unless you are told by your 
cardiologist. No other doctor can tell you to stop taking this 
medication. 

We wish you all the best, 

Your ___ Team
 
Followup Instructions:
___